US06015905
A mixture of 2-hydroxy-6-trifluoromethylpyridine (2.0 g, 12.3 mmol), sodium hydroxide (0.52 g, 12.9 mmol) and 15-crown-5 (1 drop) in dry toluene (25 ml) were stirred at reflux for 2 hours. The toluene was removed under reduced pressure and the white salt residue was dissolved in dry DMF (15 ml). Methyl 2-chloromethylphenylacetate (2.44 g, 12.3 mmol) in dry DMF (15 ml) was added dropwise along with sodium iodide (10 mg). The mixture was stirred at 75° C. for 2 hours, poured into water and extracted with diethyl ether. The ether extracts were washed with water, dried and the ether removed in vacuo leaving an oil which was purified by column chromatography (silica eluted with 10% ethyl acetate in hexane) to give methyl 2-(6-tri-fluoromethylpyrid-2-yloxymethyl)phenylacetate (3.3 g, 83%) (Compound No.5 in Table 1) as a yellow oil; 1H NMR (270 MHz)δ: 3.68(3H,s), 3.84(2H,s), 5.46(2H,s), 6.89(1H,d), 7,20-7.70(6H,m) ppm.

reactant | 2-hydroxy-6-trifluoromethylpyridine | 12.3 mmol, 2.0 g | OC1=NC(=CC=C1)C(F)(F)F | C6H4F3NO
reactant | sodium hydroxide | 12.9 mmol, 0.52 g | [OH-].[Na+]
reactant | Methyl 2-chloromethylphenylacetate | 12.3 mmol, 2.44 g | ClCC1=C(C=CC=C1)CC(=O)OC | C10H11ClO2
reactant | water | O | H2O
catalyst | 15-crown-5 | 1 drop | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | sodium iodide | 10 mg | [I-].[Na+]
product | methyl 2-(6-tri-fluoromethylpyrid-2-yloxymethyl)phenylacetate | 3.3 g, 83% | FC(C1=CC=CC(=N1)OCC1=C(C=CC=C1)CC(=O)OC)(F)F | C16H14F3NO3
